US09340549B2
(S)-(+)-2-Phenylglycine methyl ester (commercially available from Sigma-Aldrich, Milwaukee, Wis., 433 g, 2.146 mol) was added to a solution of 4-hydroxycyclohexanone (245 g, 2.146 mol) in DCE (8.5 L). Sodium triacetoxyborohydride was added (910 g, 4.292 mol), and the mixture was stirred at room temperature under nitrogen for 23 hours. Water (3 L) was added to quench the reaction, and the organic layer was separated. The aqueous phase was extracted with DCM (4 L×2) and the organic layers were combined, dried, filtered and concentrated. The residue was purified by column chromatography (gradient elution with 100% DCM to DCM/MeOH=25:1) to afford (S)-methyl 2-((4-hydroxycyclohexyl)amino)-2-phenylacetate (197 g, 35%) (mixture of cis and trans). m/z (ESI) 264 (M+H)+.

reactant | (S)-(+)-2-Phenylglycine methyl ester | COC([C@@H](N)C1=CC=CC=C1)=O | C9H11NO2
reactant | 4-hydroxycyclohexanone | 2.146 mol, 245 g | OC1CCC(CC1)=O | C6H10O2
reactant | Sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 3 L | O | H2O
solvent | DCE | 8.5 L | ClCCCl | C2H4Cl2
product | (S)-methyl 2-((4-hydroxycyclohexyl)amino)-2-phenylacetate | 197 g, 35% | OC1CCC(CC1)N[C@H](C(=O)OC)C1=CC=CC=C1 | C15H21NO3
